US20010029239A1
Sec-butyl lithium (127.5 ml of a 1.3M solution in cyclohexane) was added during 0.5 hour at −70° C. to a stirred solution of N,N,N′,N′-tetramethylethylenediamine (25 ml) in tetrahydrofuran. After a further 1 hour, a solution of 2-methoxybenzoic acid (7.61 g) in tetrahydrofuran was added during 0.5 hour and stirring continued for 2 hours at −70° C. A solution of phenyldisulphide (21.8 g) in tetrahydrofuran was added during 0.5 hour and the mixture allowed to warm to ambient temperature overnight. Water was dded and the aqueous phase washed with ether, acidified (hydrochloric acid), extracted (ethyl acetate), washed (water), dried (magnesium sulphate) and evaporated to give (after trituration with cyclohexane) 2-methoxy-6-phenylthiobenzoic acid (4.1 g).

reactant | Sec-butyl lithium | C(C)(CC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 25 ml | CN(CCN(C)C)C | C6H16N2
reactant | 2-methoxybenzoic acid | 7.61 g | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
reactant | phenyldisulphide | 21.8 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-methoxy-6-phenylthiobenzoic acid | 4.1 g | COC1=C(C(=S)O)C(=CC=C1)C1=CC=CC=C1 | C14H12O2S
